US09216980B2
Step 2: 3-ethylamino-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 3-(tert-butylcarbonyl)ethylamino-9-(2-trimethylsilanyl-ethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (161 mg, 0.345 mmol) in 1,4-dioxane (500 μL) was treated with 48% aqueous hydrobromic acid (500 μL) and heated at 75° C. for 10 min. The cooled reaction mixture was basified to pH 12 with 6N aqueous sodium hydroxide solution and then adjusted to pH 7-9 with dropwise addition of 1N hydrochloric acid. The solid was collected via centrifugation, the aqueous supernate discarded, and the solid dissolved in 1-2 mL of DMSO and purified by preparative HPLC (5-85% MeCN in water (0.1% NH4OH) over 30 min, 35 mL/min) to afford the title compound as a yellow solid (22 mg, 26%). 1H NMR (DMSO-D6, 500 MHz): 8.89 (d, J=1.0 Hz, 1H), 8.78 (d, J=0.9 Hz, 1H), 8.22 (d, J=2.7 Hz, 1H), 7.78 (d, J=2.7 Hz, 1H), 5.76 (t, J=5.5 Hz, 1H), 3.20-3.07 (m, 2H), 1.25 (t, J=7.1 Hz, 3H). LCMS (Method E): RT=2.69 min, M+H+=238.1.

reactant | 3-(tert-butylcarbonyl)ethylamino-9-(2-trimethylsilanyl-ethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.345 mmol, 161 mg | C(C)(C)(C)C(=O)CCNC1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C24H33N5O2Si
reactant | hydrobromic acid | 500 μL | Br | BrH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 500 μL | O1CCOCC1 | C4H8O2
product | 3-ethylamino-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 22 mg, 26% | C(C)NC1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C13H11N5
